US09290476B2
(2,6-Dimethylpyridin-3-yl)(1-methyl-1H-1,2,3-triazol-5-yl)methanone
A mixture containing (2,6-dimethylpyridin-3-yl)(1-methyl-1H-1,2,3-triazol-5-yl)methanol (9.8 g, 44.9 mmol, Intermediate 54: step a) and manganese dioxide (18.8 g, 184 mmol) in dry dioxane (225 mL) was heated to 100° C. with stirring. After 1 h, the mixture was cooled to 40° C. The cooled mixture was filtered through a 2 cm pad of Celite rinsing with tetrahydrofuran (100 mL). The filtrate was concentrated to provide the title compound as an off-white solid.

reactant | (2,6-dimethylpyridin-3-yl)(1-methyl-1H-1,2,3-triazol-5-yl)methanol | CC1=NC(=CC=C1C(O)C1=CN=NN1C)C | C11H14N4O
solvent | dioxane | 225 mL | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 184 mmol, 18.8 g | [O-2].[O-2].[Mn+4]
product | (2,6-Dimethylpyridin-3-yl)(1-methyl-1H-1,2,3-triazol-5-yl)methanone | CC1=NC(=CC=C1C(=O)C1=CN=NN1C)C | C11H12N4O
